US09376422B2
Step 5: Synthesis of methyl 5-bromo-2-methyl-3-[(oxan-4-yl)(2,2,2-trifluoroethyl)amino]benzoate
To a solution of methyl 5-bromo-2-methyl-3-[(oxan-4-yl)amino]benzoate (500 mg, 1.5 mmol) and TFA (15 ml), was added NaBH4 (1.0 g, 26 mmol) portionwise over 5 minutes. The reaction mixture was stirred at room temperature for 2 hours and then heated to 50° C. for 3 hours and treated with a further aliquot of NaBH4 (300 mg) over 25 minutes. The reaction mixture was then heated to 60° C. for 2 hours and left to stir at room temperature for 17 hours. The reaction mixture was treated with TFA (5 ml) and NaBH4 (200 mg) and heated back up to 60° C. for 3.5 hours. A further aliquot of NaBH4 (200 mg) was added over 15 minutes, along with TFA (5 ml) and heating continued for a further 3 hours, before being left to stand at room temperature overnight. The reaction mixture was poured over ice (75 ml) and stirred until the ice had melted. The reaction mixture was then basified by the addition of 6M NaOH (aq) (40 ml) and re-adjusted to pH 7 using 1M HCl (aq) (40 ml). The resulting white suspension was collected by filtration, the solid washed with water (20 ml) and dried in-vacuo at 40° C. for 3 hours to give the title compound (577 mg, 91%) as a white solid. LC-MS 98%,), m/z=409.90, 410.9, 411.90, 412.9; 1H NMR (500 MHz, Chloroform-d) δ ppm 7.80 (d, J=1.73 Hz, 1H) 7.41 (d, J=1.73 Hz, 1H) 4.01 (dd, J=11.51, 4.10 Hz, 2H) 3.91 (s, 3H) 3.64 (d, J=5.20 Hz, 2H) 3.32 (t, J=11.82 Hz, 2H) 2.99 (tt, J=11.43, 3.63 Hz, 1H) 2.48 (s, 3H) 1.80 (dd, J=12.53, 1.50 Hz, 2H) 1.54-1.62 (m, 2H).

reactant | methyl 5-bromo-2-methyl-3-[(oxan-4-yl)amino]benzoate | 1.5 mmol, 500 mg | BrC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCOCC1 | C14H18BrNO3
reactant | TFA | 15 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaBH4 | 26 mmol, 1.0 g | [BH4-].[Na+]
reactant | NaBH4 | 300 mg | [BH4-].[Na+]
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaBH4 | 200 mg | [BH4-].[Na+]
reactant | NaBH4 | 200 mg | [BH4-].[Na+]
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 6M, 40 ml | [OH-].[Na+]
solvent | HCl | 1M, 40 ml | Cl | ClH
product | methyl 5-bromo-2-methyl-3-[(oxan-4-yl)(2,2,2-trifluoroethyl)amino]benzoate | 577 mg, 91% | BrC=1C=C(C(=C(C(=O)OC)C1)C)N(CC(F)(F)F)C1CCOCC1 | C16H19BrF3NO3
